US07371862B2
To a stirred suspension of 5-nitro-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (10.2 g, 33 mmol) in methanol (250 mL) powdered sodium hydroxide (2 g, 50 mmol) was added. After stirring at room temperature for 30′ more powdered sodium hydroxide (2 g, 50 mmol) and dichloromethane (50 mL) were added and stirring was prolonged for additional 30′. After concentration, a solution of 2N HCl (50 mL) and water (200 mL) was added and the obtained mixture was filtered. The yellow cake was washed with water and dried to give 5-nitro-1H-pyrrolo[2,3-b]pyridine (4.6 g, 28.2 mmol, 85% yield).

reactant | 5-nitro-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 33 mmol, 10.2 g | [N+](=O)([O-])C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9N3O4S
reactant | methanol | 50 mmol, 250 mL, 2 g | CO | CH4O
reactant | sodium hydroxide | 50 mmol, 2 g | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-nitro-1H-pyrrolo[2,3-b]pyridine | 28.2 mmol, 4.6 g, 85% yield | [N+](=O)([O-])C=1C=C2C(=NC1)NC=C2 | C7H5N3O2
